US09108977B2
To 1.865 g of ethyl 11-chloro-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate were added 20 mL of ethylene glycol and 20 mL of a 40% aqueous potassium hydroxide solution, followed by heating to 120° C. for 18 hours. The reaction mixture was ice-cooled and adjusted to pH 1 by the addition of concentrated hydrochloric acid, followed by stirring for 1 hour. The reaction mixture was alkalified by the addition of a 1 M aqueous sodium hydroxide solution, followed by extraction with chloroform. The organic layer was dried over anhydrous sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure to obtain 1.451 g of 11-chloro-1,3,4,6,7,8,9,10-octahydro-2H-azepino[4,5-g]quinolin-2-one as a brown solid. To 60 mg of 11-chloro-1,3,4,6,7,8,9,10-octahydro-2H-azepino[4,5-g]quinolin-2-one were added 1 ml of EtOAc and then EtOH, followed by dissolution under heating. The precipitated solid was collected by filtration to obtain 29.5 mg of 11-chloro-1,3,4,6,7,8,9,10-octahydro-2H-azepino[4,5-g]quinolin-2-one as a white solid.

reactant | ethyl 11-chloro-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 1.865 g | ClC=1C2=C(C=C3CCC(NC13)=O)CCN(CC2)C(=O)OCC | C16H19ClN2O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethylene glycol | 20 mL | C(CO)O | C2H6O2
product | 11-chloro-1,3,4,6,7,8,9,10-octahydro-2H-azepino[4,5-g]quinolin-2-one | 1.451 g | ClC=1C2=C(C=C3CCC(NC13)=O)CCNCC2 | C13H15ClN2O
